US08629147B2
A mixture of 3-Amino-1-(8-methoxy-5,6-dihydro-benzo[h]quinazolin-2-yl)-1H-pyrazole-4-carboxylic acid (40 mg, 0.118 mM), diisopropylethylamine (70 ul, 0.402 mM), 4-[2-(4-Methyl-piperazin-1-yl)-ethyl]-phenylamine (30 mg, 0.1369 mM) in DMF (1 ml) to which was added HBTU (60 mg, 0.1583 mM) and the stirred 16 hr at room temperature. The resulting suspension was filtered and the solid washed with water (1×1 ml) and dried in vacuo to afford 5-Amino-1-(7-methoxy-5,6-dihydro-benzo[h]quinazolin-2-yl)-1H-pyrazole-4-carboxylic acid {4-[2-(4-methyl-piperazin-1-yl)-ethyl]-phenyl}-amide (12 mg, 19% yield) as a white solid. ES-MS MH+ 539. The filtrate may be purified via RP-HPLC 0.1% TFA to afford additional material.

reactant | 3-Amino-1-(8-methoxy-5,6-dihydro-benzo[h]quinazolin-2-yl)-1H-pyrazole-4-carboxylic acid | 0.118 mM, 40 mg | NC1=NN(C=C1C(=O)O)C1=NC=2C3=C(CCC2C=N1)C=C(C=C3)OC | C17H15N5O3
reactant | diisopropylethylamine | 0.402 mM, 70 ul | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 4-[2-(4-Methyl-piperazin-1-yl)-ethyl]-phenylamine | 0.1369 mM, 30 mg | CN1CCN(CC1)CCC1=CC=C(C=C1)N | C13H21N3
reactant | HBTU | 0.1583 mM, 60 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | 5-Amino-1-(7-methoxy-5,6-dihydro-benzo[h]quinazolin-2-yl)-1H-pyrazole-4-carboxylic acid {4-[2-(4-methyl-piperazin-1-yl)-ethyl]-phenyl}-amide | 12 mg, 19% yield | CN1CCN(CC1)CCC1=CC=C(C=C1)NC(=O)C=1C=NN(C1N)C1=NC=2C3=C(CCC2C=N1)C(=CC=C3)OC | C30H34N8O2
